US07935830B2
Step B. N-Ethylcarbamate-5-benzyloxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
Benzyl bromide (15 μL, 0.12 mmol) and K2CO3 (70 mg, 0.5 mmol) were added to a solution of N-ethylcarbamate-5-hydroxy-8-methyl-1,2,3,3a,8,8a-hexahydro indeno[1,2-c]pyrrole (26 mg, 0.1 mmol) in CH3CN (2 mL). The resulting mixture was stirred overnight at 80° C. The reaction was cooled to room temperature, concentrated by rotary evaporation and taken up in H2O (2.5 mL). The product was extracted with ethyl acetate (3×5 mL). The combined organic extracts were dried over MgSO4 and concentrated to afford the subtitle compound, which was used without further purification. MS calculated for C22H25NO3+H: 352, observed: 352.

reactant | Benzyl bromide | 0.12 mmol, 15 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 0.5 mmol, 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N-ethylcarbamate 5-hydroxy-8-methyl-1,2,3,3a,8,8a-hexahydro indeno[1,2-c]pyrrole | 0.1 mmol, 26 mg | C(C)NC([O-])=O.OC=1C=CC=2C(C3C(CNC3)C2C1)C
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | N-Ethylcarbamate 5-benzyloxy-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C)NC([O-])=O.C(C1=CC=CC=C1)OC=1C=CC=2C(C3C(CNC3)C2C1)C | InChI=1S/C19H21NO.C3H7NO2/c1-13-16-8-7-15(21-12-14-5-3-2-4-6-14)9-17(16)19-11-20-10-18(13)19;1-2-4-3(5)6/h2-9,13,18-20H,10-12H2,1H3;4H,2H2,1H3,(H,5,6)/p-1
